US07750003B2
Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(tert-butylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.227 mL, 1.81 mmol) was added to 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(tert-butylsulfonylmethyl)pyrimidin-2-yl]aniline (665 mg, 1.64 mmol) and sodium hydrogen carbonate (207 mg, 2.47 mmol) in dioxane (12 mL). The resulting slurry was stirred at RT for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic solution was dried (MgSO4) and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 25%-80% ethyl acetate in isohexane, to give the desired material as a yellow dry film (860 mg).

reactant | Phenyl chloroformate | 1.81 mmol, 0.227 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(tert-butylsulfonylmethyl)pyrimidin-2-yl]aniline | 1.64 mmol, 665 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C(C)(C)C)C1=CC=C(N)C=C1 | C20H28N4O3S
reactant | sodium hydrogen carbonate | 2.47 mmol, 207 mg | C(O)([O-])=O.[Na+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(tert-butylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C(C)(C)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C27H32N4O5S
